US06803484B2
A 500 mL three necked round bottom flask equipped with a magnetic stirrer, thermometer, addition funnel and a positive nitrogen was charged with [(2R)-2-(4-nitrophenyl)propyl][(methylethyl)sulfonyl]amine (12.02 g, 46.85 mmol) and methylene chloride (200.0 mL). To this solution was added triethylamine (6.53 mL, 46.85 mmol) all at once. The solution was stirred for 10 minutes then added dropwise, neat 3,5-difluorobenzoyl chloride (5.9 mL, 46.85 mmol) over a period of 20 minutes. The reaction exothermed to reflux by the end of addition. Stirred to room temperature over the weekend for convenience. Quenched reaction with 1N HCl (100.0 mL) and separated lower organic layer. Washed the organic layer with 25% brine (70.0 mL) and dried with anhydrous magnesium sulfate. Filtered precipitates and concentrated filtrate to a tan oil (20.0 g). To this oil was added 1:1 ethyl acetate/hexane (125.0 mL) with stirring. A massive off white precipitate formed. The precipitate was then filtered and the cake washed with 1:1 ethyl acetate/hexane (50.0 mL). Precipitate was then dried in a house vacuum oven at 40° C. to provide N-[4-((1R)-1-methyl-2-{[(methylethyl)sulfonyl]amino}ethyl)phenyl](3,5-difluorophenyl)carboxamide (15.02 g, 80.9%); 1H NMR (CDCl3, 300 MHz) δ 1.26-1.27 (d, 6H), 1.29-1.30 (d,2H), 2.92 (m, 1H), 3.10 (m, 1H), 3.20 (1H), 3.3-3.4 (m, 1H), 7.0 (triplet, 1H), 7.20 (d, 2H), 7.40 (d, 2H), 7.60 (m, 2H), 8.19 (s, 1H); 13C NMR (CDCl3, 300 MHz) δ 17.19, 17.30, 19.75, 41.03, 50.99, 54.15, 107.68, 107.86, 108.08, 111.12, 111.33, 121.81, 128.59, 136.97, 138.77, 140.51, 162.62, 162.71, 164.12, 164.61, 164.71.

reactant | [(2R)-2-(4-nitrophenyl)propyl][(methylethyl)sulfonyl]amine | 46.85 mmol, 12.02 g | [N+](=O)([O-])C1=CC=C(C=C1)[C@H](CNS(=O)(=O)C(C)C)C | C12H18N2O4S
reactant | triethylamine | 46.85 mmol, 6.53 mL | C(C)N(CC)CC | C6H15N
reactant | 3,5-difluorobenzoyl chloride | 46.85 mmol, 5.9 mL | FC=1C=C(C(=O)Cl)C=C(C1)F | C7H3ClF2O
solvent | methylene chloride | 200.0 mL | C(Cl)Cl | CH2Cl2
product | N-[4-((1R)-1-methyl-2-{[(methylethyl)sulfonyl]amino}ethyl)phenyl](3,5-difluorophenyl)carboxamide | 15.02 g, 80.9% | C[C@@H](CNS(=O)(=O)C(C)C)C1=CC=C(C=C1)NC(=O)C1=CC(=CC(=C1)F)F | C19H22F2N2O3S
